US07439257B2
7.3. 2-(ethyloxy)-2-oxoethyl 4-[(1-naphthalenyloxy)methyl]-1-piperidinecarboxylate
A solution of 2.75 g (11.4 mmol) of 4-[(1-naphthalenyloxy)methyl]piperidine, prepared in Step 7.2., and 2.56 g (11.4 mmol) of ethyl [(phenyloxy-carbonyl)oxy]acetate, prepared in accordance with Example 1.1, in 80 ml of toluene is heated at 50° C. overnight. It is evaporated to dryness and the residue is taken up in a mixture of water, dichloromethane and saturated aqueous sodium hydrogen carbonate solution. The organic phase is decanted, dried over sodium sulfate and evaporated to dryness. The product is purified by chromatography on silica gel, eluting with a 50/50 mixture of cyclohexane and dichloromethane and then with dichloromethane and with a 95/5 mixture of dichloromethane and ethyl acetate. This gives 2.05 g of product in oil form, which is used as it is in the following step.

reactant | 4-[(1-naphthalenyloxy)methyl]piperidine | 11.4 mmol, 2.75 g | C1(=CC=CC2=CC=CC=C12)OCC1CCNCC1 | C16H19NO
reactant | ethyl [(phenyloxy-carbonyl)oxy]acetate | 11.4 mmol, 2.56 g | C1(=CC=CC=C1)OC(=O)OCC(=O)OCC | C11H12O5
solvent | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(ethyloxy)-2-oxoethyl 4-[(1-naphthalenyloxy)methyl]-1-piperidinecarboxylate | C1(=CC=CC2=CC=CC=C12)OCC1CCN(CC1)C(=O)OCC(=O)OCC | C21H25NO5
